US09303040B2
To a solution of 5-ethyl-4-(piperazin-1-yl)-5,7-dihydrothieno[3,4-d]pyrimidine dihydrochloride (50 mg, 0.15 mmol) and (R)-2-(tert-butoxycarbonylamino)-3-(4-chlorophenyl)propanoic acid (46 mg, 0.15 mmol) in DCM (10 mL) and triethylamine (1 mL) was added HBTU (59 mg, 0.15 mmol). The mixture was stirred at room temperature for 3 hours. The solvent was removed and the residue was purified by silica gel chromatography, eluting with DCM/ethyl acetate (1:1) to give tert-butyl (R)-3-(4-chlorophenyl)-1-(4-(5-ethyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate (50 mg, 60%). 1H NMR (CDCl3, 400 MHz) δ 8.53 (s, 1H), 7.26-7.14 (m, 4H), 5.36 (m, 1H), 4.82 (m, 1H), 4.62 (m, 1H), 4.14 (m, 1H), 3.80-2.90 (m, 8H), 1.94 (m, 1H). 1.68 (m, 1H), 1.54 (m, 1H), 1.42 (s, 9H), 0.94 (m, 3H). MS (APCI+) [M+H]+ 533.

reactant | 5-ethyl-4-(piperazin-1-yl)-5,7-dihydrothieno[3,4-d]pyrimidine dihydrochloride | 0.15 mmol, 50 mg | Cl.Cl.C(C)C1SCC=2N=CN=C(C21)N2CCNCC2
reactant | (R)-2-(tert-butoxycarbonylamino)-3-(4-chlorophenyl)propanoic acid | 0.15 mmol, 46 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)Cl | C14H18ClNO4
reactant | HBTU | 0.15 mmol, 59 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
product | tert-butyl (R)-3-(4-chlorophenyl)-1-(4-(5-ethyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate | 50 mg, 60% | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CSC2CC)NC(OC(C)(C)C)=O | C26H34ClN5O3S
